US06429214B1
[1-Benzyl-7-methoxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]acetic acid methyl ester
The title compound (4.3 g, 88% yield) was prepared using the conditions of Example 124 using (7-methoxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester in place of (7-methoxy-2-oxo-1,2-dihydro-quinolin-3-yl)acetic acid methyl ester and benzyl bromide in place of ethyl iodide.

reactant | (7-methoxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester | COC(CC1C(NC2=CC(=CC=C2C1)OC)=O)=O | C13H15NO4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | [1-Benzyl-7-methoxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]acetic acid methyl ester | 4.3 g, 88% yield | COC(CC1C(N(C2=CC(=CC=C2C1)OC)CC1=CC=CC=C1)=O)=O | C20H21NO4
